US04515814
1. 4-(2-Cyclopentyloxyethyl)-phenol benzyl ether
24.11 g of cyclopentanol and then 1.63 g of sodium are introduced into a 250 ml round-bottomed flask. The mixture is heated at 110°-120° C. until the sodium has disappeared. The mixture is then cooled and 80 cc of benzene are added. 26.77 g of 2-(4-benzyloxyphenyl)ethanol tosylate are then introduced in portions. The mixture is heated at 80° C. for 3 hours. The benzene is driven off, the residue is taken up in water and the solution is extracted with ethyl acetate. This gives an oil.

reactant | cyclopentanol | 24.11 g | C1(CCCC1)O | C5H10O
reactant | sodium | 1.63 g | [Na] | Na
reactant | benzene | 80 cc | C1=CC=CC=C1 | C6H6
reactant | 2-(4-benzyloxyphenyl)ethanol tosylate | 26.77 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H22O4S
solvent | water | O | H2O
product | 4-(2-Cyclopentyloxyethyl)-phenol benzyl ether | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOC1CCCC1 | C20H24O2
